US08183264B2
2-Amino-nicotinic acid N'-(2-(4-benzyloxy-phenyl)-acetyl)-hydrazide
To a solution of DMSO (3 mL) of (4-benzyloxy-phenyl)-acetic acid hydrazide (130 mg) described in Manufacturing Example 8-1 were added triethylamine (0.21 mL), 2-aminonicotinic acid (70 mg), and BOP reagent (benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate) (250 mg), which was stirred for 1 hour at the same temperature. Water was added to the reaction solution, and the solids thus precipitated were filtered off to obtain the titled compound (170 mg).

reactant | DMSO | 3 mL | CS(=O)C | C2H6OS
reactant | (4-benzyloxy-phenyl)-acetic acid hydrazide | 130 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NN | C15H16N2O2
reactant | 2-aminonicotinic acid | 70 mg | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | BOP reagent | 250 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | Water | O | H2O
solvent | triethylamine | 0.21 mL | C(C)N(CC)CC | C6H15N
product | 2-Amino-nicotinic acid N'-(2-(4-benzyloxy-phenyl)-acetyl)-hydrazide | 170 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NNC(C1=C(N=CC=C1)N)=O | C21H20N4O3
